US07816522B2
(135b) t-butyl-(5-ethyl-2-fluorophenoxy)dimethylsilane
After adding 9.16 g of imidazole and 19.4 g of t-butyldimethylchlorosilane to a solution of 16.4 g of 5-ethyl-2-fluorophenol in 40 ml of DMF, the reaction mixture was stirred at room temperature for 18 hours. After then adding 500 ml of diethyl ether and 500 ml of water to the reaction mixture, the organic layer was washed twice with 100 ml of water and once with 100 ml of saturated aqueous sodium chloride in that order and then dried over anhydrous magnesium sulfate, the desiccating agent was filtered off, and the filtrate was concentrated under reduced pressure. The residue was subjected to distillation to give the title compound (25.38 g) as a colorless liquid (boiling point: 133-135° C., 20 mmHg).

reactant | imidazole | 9.16 g | N1C=NC=C1 | C3H4N2
reactant | t-butyldimethylchlorosilane | 19.4 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
reactant | 5-ethyl-2-fluorophenol | 16.4 g | C(C)C=1C=CC(=C(C1)O)F | C8H9FO
reactant | diethyl ether | 500 ml | C(C)OCC | C4H10O
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
solvent | water | 500 ml | O | H2O
product | t-butyl-(5-ethyl-2-fluorophenoxy)dimethylsilane | 25.38 g | C(C)(C)(C)[Si](C)(C)OC1=C(C=CC(=C1)CC)F | C14H23FOSi
